US07696210B2
7-Bromo-pyrido[2,3-b]pyrazine:
5-Bromo-pyridine-2,3-diamine (6.5 g, 35 mmol) was dissolved in MeOH (100 ml). Glyoxal (15 ml of a 40% solution). The solution was stirred for 18 h at room temperature. The solvent was removed, and the crude material was partitioned between ethyl acetate and brine. The ethyl acetate was washed two additional times with brine, the organic layer was dried using MgSO4, and the solvent as removed to yield the title product (6.9 g (95%),33 mmol). 1H NMR (DMSO-d6): δ=9.28 (d, 1H, J=2.5 Hz), 9.19 (d, 1H, J=1.7 Hz), 9.10 (d,1H, J=1.7 Hz), 8.94(d,1H, J=2.5 Hz). Calculated mass=210.03, [M+H]+=212.

reactant | 5-Bromo-pyridine-2,3-diamine | 35 mmol, 6.5 g | BrC=1C=C(C(=NC1)N)N | C5H6BrN3
reactant | Glyoxal | C(=O)C=O | C2H2O2
solvent | MeOH | 100 ml | CO | CH4O
product | 7-Bromo-pyrido[2,3-b]pyrazine | 33 mmol, 6.9 g, 95% | BrC1=CC=2C(=NC=CN2)N=C1 | C7H4BrN3
